US08486946B2
Step 2: Preparation of 2-(2,3-dimethylphenyl)-5-[4-(1H-pyrazol-1-yl)benzyl]-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one
5-[4-(1H-Pyrazol-1-yl)benzyl]-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one (75 mg, 0.22 mmol) was dissolved in degassed. NA-dimethylformamide and treated with 1-iodo-2,3-dimethylbenzene (0.15 g, 0.66 mmol, 3 equiv), tribasic potassium phosphate (0.28 g, 1.31 mmol, 6 equiv), copper(I)iodide (42 mg, 0.22 mmol, 1 equiv) and (±)-trans-N,N′-dimethylcyclohexane-1,2-diamine (93 mg, 0.66 mmol, 3 equiv). The mixture was placed into an oil bath preheated at 110° C. for 30 minutes, cooled to ambient temperature, poured into sodium bicarbonate (25 mL, saturated aqueous) and extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified via silica gel gradient chromatography (60:40 to 0:100; hexanes:ethyl acetate), providing the titled compound. 1H-NMR (400 MHz, CDCl3) δ 8.33-8.30 (1H, m), 7.90 (1H, d, J=2.6 Hz), 7.73-7.69 (3H, m), 7.58-7.52 (3H, m), 7.43 (2H, d, J=8.7 Hz), 7.31-7.27 (1H, m), 7.24-7.22 (2H, m), 6.47 (1H, dd, J=2.5, 1.8 Hz), 5.88 (2H, s), 2.37 (3H, s), 2.21 (3H, s) ppm; high resolution mass spectrometry (ES+) m/z 447.1931 [(M+H)+; calculated for C27H22N6O: 447.1928].

reactant | 5-[4-(1H-Pyrazol-1-yl)benzyl]-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | 0.22 mmol, 75 mg | N1(N=CC=C1)C1=CC=C(CN2N=C3C(C=4C=CC=CC24)=NNC3=O)C=C1 | C19H14N6O
reactant | 1-iodo-2,3-dimethylbenzene | 0.66 mmol, 0.15 g, 3 equiv | IC1=C(C(=CC=C1)C)C | C8H9I
reactant | potassium phosphate | 1.31 mmol, 0.28 g, 6 equiv | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (±)-trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.66 mmol, 93 mg, 3 equiv | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
catalyst | copper(I)iodide | 0.22 mmol, 42 mg, 1 equiv | [Cu]I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(2,3-dimethylphenyl)-5-[4-(1H-pyrazol-1-yl)benzyl]-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | CC1=C(C=CC=C1C)N1N=C2C(=NN(C=3C=CC=CC23)CC2=CC=C(C=C2)N2N=CC=C2)C1=O | C27H22N6O
